US08809389B2
c) Synthesis of 5-(but-2-ynyloxy)-6-propyl-benzo[1.3]dioxole
Following the same procedure as in Example 2, 3.65 g (0.02 moles) of 5-hydroxy-6-propyl-benzo[1.3]dioxole were reacted with 2.7 g (0.02 moles) of 1-bromo-2-butyne and 2.8 g (0.02 moles) of anhydrous potassium carbonate in 15 ml of acetone. After the work up of the reaction as in Example 2, a residue was obtained that after distillation at 115-117° C./0.2 mbar gave 3.9 g of a liquid product that, after some time, crystallized with m.p. 39° -40 ° C. and whose NMR and MS analyses correspond to those of the aforementioned compound.

reactant | 5-hydroxy-6-propyl-benzo[1.3]dioxole | 0.02 moles, 3.65 g | OC1=CC2=C(OCO2)C=C1CCC | C10H12O3
reactant | 1-bromo-2-butyne | 0.02 moles, 2.7 g | BrCC#CC | C4H5Br
reactant | potassium carbonate | 0.02 moles, 2.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 15 ml | CC(=O)C | C3H6O
product | 5-(but-2-ynyloxy)-6-propyl-benzo[1.3]dioxole | 3.9 g | C(C#CC)OC1=CC2=C(OCO2)C=C1CCC | C14H16O3
